US04548818
Preparation of 3,7-dihydro-8-methyl-3-(2-methylpropyl)-1H-purine-2,6-dione XXXV
10 g of 5,6-diamino-1-(2-methylpropyl)-2,4-(1H,3H)-pyrimidine dione was refluxed in 50 ml of acetic acid for 1 hour. 30 ml of chloroform was added and ether was then added slowly. The received crystals were filtered off. Yield 10.8 g. The amide was refluxed in 30 ml of 2N NaOH for 1 hour and then neutralized with 5N HCl. The crystals were filtered off and recrystallized from 50 ml of acetic acid. Yield 3.3 g. NMR (see Table I).

reactant | 5,6-diamino-1-(2-methylpropyl)-2,4-(1H,3H)-pyrimidine dione | 10 g | NC=1C(NC(N(C1N)CC(C)C)=O)=O | C8H14N4O2
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3,7-dihydro-8-methyl-3-(2-methylpropyl)-1H-purine-2,6-dione | CC1=NC=2N(C(NC(C2N1)=O)=O)CC(C)C | C10H14N4O2
